US06087380
1-Methyl-2-[N-[4-(N-benzyloxycarbonylamidino)phenyl]-amino-methyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-hydroxycarbonylethyl)-amide
Prepared analogously to Example 104 from 1-methyl-2-[N-[4-(N-benzyloxycarbonylamidino)phenyl]-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide and sodium hydroxide solution. Yield: 62% of theory, C33H31N7O5 (605.7) Rf value: 0.26 (silica gel; dichloromethane/methanol=9:1) ##EQU133##

reactant | 1-methyl-2-[N-[4-(N-benzyloxycarbonylamidino)phenyl]-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(NC(=O)OCC2=CC=CC=C2)=N)C)C=C1)CCC(=O)OCC | C35H35N7O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane methanol | ClCCl.CO
product | 1-Methyl-2-[N-[4-(N-benzyloxycarbonylamidino)phenyl]-amino-methyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-hydroxycarbonylethyl)-amide | Yield: 62% | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(NC(=O)OCC2=CC=CC=C2)=N)C)C=C1)CCC(=O)O | C33H31N7O5
